US05428065
A mixture of 8-phenyloctyl chloride (4.4 g), sodium iodide (5.34 g) and acetone (20 ml) was heated under reflux for 20 hours. Evaporated, water (20 ml) added and extracted with diethyl ether (20 ml). The extracts were dried, filtered and evaporated to a pale yellow liquid (5.5 g). Distilled to give 8-phenyloctyl iodide, b.p. 200° C. (air bath temperature) at 0.1 mBar.

reactant | 8-phenyloctyl chloride | 4.4 g | C1(=CC=CC=C1)CCCCCCCCCl | C14H21Cl
reactant | sodium iodide | 5.34 g | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 8-phenyloctyl iodide | C1(=CC=CC=C1)CCCCCCCCI | C14H21I
